US05587483
3. Preparation of Methyl 4-(4-Phenylbutoxy)benzoate
A solution of methyl 4-hydroxybenzoate (13.4 kg, 88 mol) in DMF (52 L) was added dropwise to a mixture of NaOMe (4.8 kg, 89 mol) and DMF (50 L) at room temperature under a gentle stream of nitrogen. The reaction mixture was heated at 60°-70° for 1 hr with stirring and then cooled to room temperature. To this mixture was added dropwise a solution of 4-phenylbutyl bromide (16.92 kg, 79.4 mol) in DMF (5 L). The resulting mixture was heated at 60°-70° for 1 hr with constant sting and cooled to room temperature. After an addition of 1N-NaOH (110 L) was added, and the product was extracted twice with ethyl acetate (50 L and 80 L). The extracts were washed with 1N-NaOH (110 L) and saturated brine (20 L) successively, and then concentrated to dryness in vacuo to give the title compound in quantitative yield.

reactant | methyl 4-hydroxybenzoate | 88 mol, 13.4 kg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | NaOMe | 89 mol, 4.8 kg | C[O-].[Na+]
reactant | 4-phenylbutyl bromide | 79.4 mol, 16.92 kg | C1(=CC=CC=C1)CCCCBr | C10H13Br
reactant | NaOH | 110 L | [OH-].[Na+]
solvent | DMF | 52 L | CN(C)C=O | C3H7NO
solvent | DMF | 5 L | CN(C)C=O | C3H7NO
solvent | DMF | 50 L | CN(C)C=O | C3H7NO
product | Methyl 4-(4-Phenylbutoxy)benzoate | quantitative yield | C1(=CC=CC=C1)CCCCOC1=CC=C(C(=O)OC)C=C1 | C18H20O3
